US06586422B2
In analogy to the procedure described in example 12 1-phenyl-1,2-propanedione and 2-aminomalonamide were heated in an aqueous solution to give 5-methyl-3-oxo-6-phenyl-3,4 -dihydro-pyrazine-2-carboxylic acid amide. Then, the 5-methyl-3-oxo-6-phenyl-3,4-dihydro-pyrazine-2-carboxylic acid amide was treated with triethylamine and phosphorus pentachloride in phosphorus oxychloride at reflux to give the 3-chloro-5-methyl-6-phenyl-pyrazine-2-carbonitrile. The 3-chloro-5-methyl-6-phenyl-pyrazine-2-carbonitrile was finally treated with 2,3,4,5-tetrahydro-1H-benzo[d]azepine hydrochloride (J. Heterocycl. Chem. 1971, 8(5), 779-83) and N-ethyldiisopropylamine in N,N-dimethylformamide at room temperature to yield the 5-methyl-6-phenyl-3-(1,2,4,5-tetrahydro-benzo[d]azepin-3-yl)-pyrazine-2-carbonitrile as yellow amorphous solid; MS: 341 (M+H)+.

reactant | 3-chloro-5-methyl-6-phenyl-pyrazine-2-carbonitrile | ClC=1C(=NC(=C(N1)C)C1=CC=CC=C1)C#N | C12H8ClN3
reactant | 2,3,4,5-tetrahydro-1H-benzo[d]azepine hydrochloride | Cl.C1CNCCC2=C1C=CC=C2
reactant | N-ethyldiisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 5-methyl-6-phenyl-3-(1,2,4,5-tetrahydro-benzo[d]azepin-3-yl)-pyrazine-2-carbonitrile | CC=1N=C(C(=NC1C1=CC=CC=C1)C#N)N1CCC2=C(CC1)C=CC=C2 | C22H20N4
